### PR TITLE
[Merged by Bors] - feat(NumberTheory/Niven): `exp/sin/cos/tan(q π i)` are integral/algebraic for rational `q`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

And hooray for surpassing `⌊ π * 10⁴ ⌋` PRs 🎉

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Niven.lean [hunk 1]
```diff
@@ -35,26 +36,78 @@ end IsIntegral
...
+open Real Polynomial
+
+section IsIntegral
+
+/-- `exp(q * πi)` for `q : ℚ` is integral over `ℤ`. -/
+theorem Complex.isIntegral_exp_rat_mul_pi_mul_I (q : ℚ) : IsIntegral ℤ <| exp <| q * π * I := by
+  refine ⟨X ^ (2 * q.den) - 1, Polynomial.monic_X_pow_sub <| by simp [q.den_pos], ?_⟩
+  nth_rw 1 [← q.num_div_den]
+  simp [← Complex.exp_nat_mul,
+    show 2 * q.den * (q.num / q.den * π * I) = q.den / q.den * q.num * (2 * π * I) by ring_nf]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
lemma Complex.exp_rat_mul_pi_mul_I_pow_two_mul_den (q : ℚ) :
    exp (q * π * I) ^ (2 * q.den) = 1 := by
  nth_rewrite 1 [← q.num_div_den]
  rw [← exp_nat_mul]
  push_cast
  rw [show 2 * q.den * (q.num / q.den * π * I) = q.num * (2 * π * I) by field, exp_int_mul,
    exp_two_pi_mul_I, one_zpow]

/-- `exp(q * π * I)` for `q : ℚ` is integral over `ℤ`. -/
theorem Complex.isIntegral_exp_rat_mul_pi_mul_I (q : ℚ) : IsIntegral ℤ <| exp <| q * π * I := by
  refine .of_pow (Nat.mul_pos zero_lt_two q.den_pos) ?_
  rw [exp_rat_mul_pi_mul_I_pow_two_mul_den]
  exact isIntegral_one

/-- `exp(-(q * π) * I)` for `q : ℚ` is integral over `ℤ`. -/
theorem Complex.isIntegral_exp_neg_rat_mul_pi_mul_I (q : ℚ) :
    IsIntegral ℤ <| exp <| -(q * π) * I := by
  convert isIntegral_exp_rat_mul_pi_mul_I (-q) using 3
  push_cast
  ring
```
* Better use the API for `IsIntegral` than its implementation.
* The fact that `exp(qπI) ^ (2 den(q)) = 1` may be useful on its own.
* The second `theorem` is useful further down.

File: Mathlib/NumberTheory/Niven.lean [hunk 2]
```diff
@@ -35,26 +36,78 @@ end IsIntegral
...
+
+/-- `2 sin(q * π)` for `q : ℚ` is integral over `ℤ`, using the complex `sin` function. -/
+theorem Complex.isIntegral_two_mul_sin_rat_mul_pi (q : ℚ) : IsIntegral ℤ <| 2 * sin (q * π) := by
+  convert integralClosure ℤ ℂ |>.mul_mem (integralClosure ℤ ℂ |>.sub_mem
+      (isIntegral_exp_rat_mul_pi_mul_I (-q)) (isIntegral_exp_rat_mul_pi_mul_I q))
+    Complex.isIntegral_int_I using 1
+  unfold sin
+  push_cast
+  ring_nf
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
  rw [sin.eq_1, mul_div_cancel₀ _ two_ne_zero]
  exact ((isIntegral_exp_neg_rat_mul_pi_mul_I q).sub <| isIntegral_exp_rat_mul_pi_mul_I q).mul
    isIntegral_int_I
```
* `unfold` is a code smell (unless used in API lemmas). One should probably add the statement of `sin.eq_1` with a better name explicitly to the API for `Complex.sin` (similary for `cos`).
* Use the API for `IsIntegral` and dot notation.

File: Mathlib/NumberTheory/Niven.lean [hunk 3]
```diff
@@ -35,26 +36,78 @@ end IsIntegral
...
+
+/-- `2 cos(q * π)` for `q : ℚ` is integral over `ℤ`, using the complex `cos` function. -/
+theorem Complex.isIntegral_two_mul_cos_rat_mul_pi (q : ℚ) : IsIntegral ℤ <| 2 * cos (q * π) := by
+  convert integralClosure ℤ ℂ |>.add_mem (isIntegral_exp_rat_mul_pi_mul_I q)
+    (isIntegral_exp_rat_mul_pi_mul_I (-q)) using 1
+  unfold cos
+  push_cast
+  ring_nf
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
  rw [cos.eq_1, mul_div_cancel₀ _ two_ne_zero]
  exact (isIntegral_exp_rat_mul_pi_mul_I q).add <| isIntegral_exp_neg_rat_mul_pi_mul_I q
```

File: Mathlib/NumberTheory/Niven.lean [hunk 4]
```diff
@@ -35,26 +36,78 @@ end IsIntegral
...
+  isIntegral_algebraMap_iff (B := ℂ) RCLike.ofReal_injective |>.mp <| by
+    simp [Complex.isIntegral_two_mul_cos_rat_mul_pi]
+
+@[deprecated (since := "2025-11-09")]
+alias isIntegral_two_mul_cos_rat_mul_pi := Real.isIntegral_two_mul_cos_rat_mul_pi
+
+/-- `sin(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the complex `sin` function. -/
+theorem Complex.isAlgebraic_sin_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| sin <| q * π :=
+  IsAlgebraic.of_mul (by simp) (IsAlgebraic.algebraMap <| Algebra.IsAlgebraic.isAlgebraic (2 : ℤ))
+    (Complex.isIntegral_two_mul_sin_rat_mul_pi q |>.isAlgebraic)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
  .of_mul (by simp) (isAlgebraic_algebraMap _) (isIntegral_two_mul_sin_rat_mul_pi q).isAlgebraic
```

File: Mathlib/NumberTheory/Niven.lean [hunk 5]
```diff
@@ -35,26 +36,78 @@ end IsIntegral
...
+
+/-- `cos(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the complex `cos` function. -/
+theorem Complex.isAlgebraic_cos_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| cos <| q * π :=
+  IsAlgebraic.of_mul (by simp) (IsAlgebraic.algebraMap <| Algebra.IsAlgebraic.isAlgebraic (2 : ℤ))
+    (Complex.isIntegral_two_mul_cos_rat_mul_pi q |>.isAlgebraic)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
  .of_mul (by simp) (isAlgebraic_algebraMap _) (isIntegral_two_mul_cos_rat_mul_pi q).isAlgebraic
```

File: Mathlib/NumberTheory/Niven.lean [hunk 6]
```diff
@@ -35,26 +36,78 @@ end IsIntegral
...
+
+/-- `sin(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the real `sin` function. -/
+theorem Real.isAlgebraic_sin_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| sin <| q * π :=
+  IsAlgebraic.of_mul (by simp) (IsAlgebraic.algebraMap <| Algebra.IsAlgebraic.isAlgebraic (2 : ℤ))
+    (Real.isIntegral_two_mul_sin_rat_mul_pi q |>.isAlgebraic)
+
+/-- `cos(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the real `cos` function. -/
+theorem Real.isAlgebraic_cos_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| cos <| q * π :=
+  IsAlgebraic.of_mul (by simp) (IsAlgebraic.algebraMap <| Algebra.IsAlgebraic.isAlgebraic (2 : ℤ))
+    (Real.isIntegral_two_mul_cos_rat_mul_pi q |>.isAlgebraic)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
  .of_mul (by simp) (isAlgebraic_algebraMap _) (isIntegral_two_mul_cos_rat_mul_pi q).isAlgebraic
```

File: Mathlib/NumberTheory/Niven.lean [hunk 7]
```diff
@@ -35,26 +36,78 @@ end IsIntegral
...
+
+/-- `cos(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the complex `cos` function. -/
+theorem Complex.isAlgebraic_cos_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| cos <| q * π :=
+  IsAlgebraic.of_mul (by simp) (IsAlgebraic.algebraMap <| Algebra.IsAlgebraic.isAlgebraic (2 : ℤ))
+    (Complex.isIntegral_two_mul_cos_rat_mul_pi q |>.isAlgebraic)
+
+/-- `sin(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the real `sin` function. -/
+theorem Real.isAlgebraic_sin_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| sin <| q * π :=
+  IsAlgebraic.of_mul (by simp) (IsAlgebraic.algebraMap <| Algebra.IsAlgebraic.isAlgebraic (2 : ℤ))
+    (Real.isIntegral_two_mul_sin_rat_mul_pi q |>.isAlgebraic)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
  .of_mul (by simp) (isAlgebraic_algebraMap _) (isIntegral_two_mul_sin_rat_mul_pi q).isAlgebraic
```

File: Mathlib/NumberTheory/Niven.lean [hunk 8]
```diff
@@ -35,26 +36,78 @@ end IsIntegral
...
+
+/-- `cos(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the real `cos` function. -/
+theorem Real.isAlgebraic_cos_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| cos <| q * π :=
+  IsAlgebraic.of_mul (by simp) (IsAlgebraic.algebraMap <| Algebra.IsAlgebraic.isAlgebraic (2 : ℤ))
+    (Real.isIntegral_two_mul_cos_rat_mul_pi q |>.isAlgebraic)
+
+/-- `tan(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the complex `tan` function. -/
+theorem Complex.tan_rat_mul_pi_isAlgebraic (q : ℚ) : IsAlgebraic ℤ <| tan <| q * π :=
+  IsAlgebraic.mul (Complex.isAlgebraic_sin_rat_mul_pi q)
+    (IsAlgebraic.inv <| Complex.isAlgebraic_cos_rat_mul_pi q)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Niven.lean]:
```suggestion
  (isAlgebraic_sin_rat_mul_pi q).mul (isAlgebraic_cos_rat_mul_pi q).inv
```
and maybe move this up to the other `Complex....` results. Then they can be put into `namespace Complex ... end Complex` and similarly for the `Real...` ones.

**Comment by riccardobrasca** [comment]
Aren't you adding that it is root of unity in another PR?

File: Mathlib/NumberTheory/Niven.lean [hunk 9]
```diff
@@ -37,24 +38,82 @@ variable {θ : ℝ}
...
+/-- `sin(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the complex `sin` function. -/
+theorem isAlgebraic_sin_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| sin <| q * π :=
+  .of_mul (by simp) (isAlgebraic_algebraMap _) (isIntegral_two_mul_sin_rat_mul_pi q).isAlgebraic
+
+/-- `cos(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the complex `cos` function. -/
+theorem isAlgebraic_cos_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| cos <| q * π :=
+  .of_mul (by simp) (isAlgebraic_algebraMap _) (isIntegral_two_mul_cos_rat_mul_pi q).isAlgebraic
+
+/-- `tan(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the complex `tan` function. -/
+theorem tan_rat_mul_pi_isAlgebraic (q : ℚ) : IsAlgebraic ℤ <| tan <| q * π :=
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Niven.lean]: The name should start with `isAlgebraic`.

File: Mathlib/NumberTheory/Niven.lean [hunk 10]
```diff
@@ -37,24 +38,82 @@ variable {θ : ℝ}
...
+/-- `sin(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the real `sin` function. -/
+theorem isAlgebraic_sin_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| sin <| q * π :=
+  .of_mul (by simp) (isAlgebraic_algebraMap _) (isIntegral_two_mul_sin_rat_mul_pi q).isAlgebraic
+
+/-- `cos(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the real `cos` function. -/
+theorem isAlgebraic_cos_rat_mul_pi (q : ℚ) : IsAlgebraic ℤ <| cos <| q * π :=
+  .of_mul (by simp) (isAlgebraic_algebraMap _) (isIntegral_two_mul_cos_rat_mul_pi q).isAlgebraic
+
+/-- `tan(q * π)` for `q : ℚ` is algebraic over `ℤ`, using the real `tan` function. -/
+theorem tan_rat_mul_pi_isAlgebraic (q : ℚ) : IsAlgebraic ℤ <| tan <| q * π :=
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Niven.lean]: Same.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
